US07148234B2
STEP 1. 2-{4-[4-(Methylsulfonyl)-2-nitroanilino]phenyl}ethanol
A mixture of 2-chloro-5-methylsulfonylnitrobenzene (Kavalek, J.; et al. Collect. Czech. Chem. Commun, 1971, 36, 209., 2 g, 8.5 mmol), 4-aminophenylethyl alcohol (1.4 g, 10.2 mmol) and Na2CO3 (1.4 g, 12.7 mmol) in ethanol was stirred at 100° C. for 16 h. The insoluble matter was removed by filtration and washed with ethanol (100 mL). The filtrate was concentrated and the residue was purified by flash column chromatography on silica gel eluting with hexane/ethyl acetate (1:4) to afford 960 mg (34%) of the title compound as yellow solids: 1H-NMR (CDCl3) δ 9.84 (1H, br.s), 8.82 (1H, d, J=2.1 Hz), 7.79 (1H, dd, J=2.1 Hz, 9.1 Hz), 7.36 (2H, d, J=8.4 Hz), 7.22–7.38 (3H, m), 3.94 (2H, br.s), 3.07 (3H, s), 2.93 (2H, t, J=6.6 Hz).

reactant | 2-chloro-5-methylsulfonylnitrobenzene | 8.5 mmol, 2 g | ClC1=C(C=C(C=C1)S(=O)(=O)C)[N+](=O)[O-] | C7H6ClNO4S
reactant | 4-aminophenylethyl alcohol | 10.2 mmol, 1.4 g | NC1=CC=C(C=C1)CCO | C8H11NO
reactant | Na2CO3 | 12.7 mmol, 1.4 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 2-{4-[4-(Methylsulfonyl)-2-nitroanilino]phenyl}ethanol | 960 mg, 34% | CS(=O)(=O)C1=CC(=C(NC2=CC=C(C=C2)CCO)C=C1)[N+](=O)[O-] | C15H16N2O5S
